US05283248
tert-Butyl 7-[4-(tert-butoxycarbonyl)-1-piperazinyl]-5-cyclopropyl-8-fluoro-3,5-dihydro-1,3-dioxopyrimido-[1,6-a]benzimidazol-2(1H)-carbamate (0.145 g, 0.26 mmol) is dissolved in 1 ml of trifluoroacetic acid and stirred at room temperature for 2 hours. The reaction solution is concentrated, treated with 1 ml of H2O, adjusted to pH 8 with saturated aqueous NaHCO3 solution and stirred at room temperature for 1 hour. The suspension is cooled to 0° and suction filtered. The product is chromatographed on silica gel (eluent: CHCl3 /EtOH/NH4OH 80:20:1) and recrystallized from ethanol. There is obtained 2-amino-5-cyclopropyl-8-fluoro-7-(1-piperazinyl)pyrimido[1,6-a]benzimidazole-1,3(2H,5H)-dione. Yield: 43 mg (46%); m.p. 232°-234°.

reactant | tert-Butyl 7-[4-(tert-butoxycarbonyl)-1-piperazinyl]-5-cyclopropyl-8-fluoro-3,5-dihydro-1,3-dioxopyrimido-[1,6-a]benzimidazol-2(1H)-carbamate | 0.26 mmol, 0.145 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC2=C(N3C(N2C2CC2)=CC(N(C3=O)NC(=O)OC(C)(C)C)=O)C=C1F | C27H35FN6O6
solvent | trifluoroacetic acid | 1 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 2-amino-5-cyclopropyl-8-fluoro-7-(1-piperazinyl)pyrimido[1,6-a]benzimidazole-1,3(2H,5H)-dione | NN1C(N2C(N(C3=C2C=C(C(=C3)N3CCNCC3)F)C3CC3)=CC1=O)=O | C17H19FN6O2
